* FILE: MMI_MUX2C.sp


* SPICE netlist for "MMI_MUX2C" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_MUX2C in0 in1 out sel 
Minverter._0 net_1 sel gnd gnd n W='0.46*1u' L=ln_min ad='arean(0.46,sdd)' 
+ as='arean(0.46,sdd)' pd='perin(0.46,sdd)' ps='perin(0.46,sdd)'
Minverter._1 net_1 sel vdd vdd p W='0.92*1u' L=lp_min ad='areap(0.92,sdd)' 
+ as='areap(0.92,sdd)' pd='perip(0.92,sdd)' ps='perip(0.92,sdd)'
Mxgate._2 net_2 sel net_3 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)'
Mxgate._3 net_2 net_1 net_3 gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)'
Minverter_1._4 net_3 in0 gnd gnd n W='0.92*1u' L=ln_min 
+ ad='arean(0.92,sdd)' as='arean(0.92,sdd)' pd='perin(0.92,sdd)' 
+ ps='perin(0.92,sdd)'
Minverter_1._5 net_3 in0 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
Minverter_2._6 net_4 in1 gnd gnd n W='0.92*1u' L=ln_min 
+ ad='arean(0.92,sdd)' as='arean(0.92,sdd)' pd='perin(0.92,sdd)' 
+ ps='perin(0.92,sdd)'
Minverter_2._7 net_4 in1 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
Mxgate_1._8 net_2 net_1 net_4 vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
Mxgate_1._9 net_2 sel net_4 gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)'
Minverter_3._10 out net_2 gnd gnd n W='1.84*1u' L=ln_min 
+ ad='arean(1.84,sdd)' as='arean(1.84,sdd)' pd='perin(1.84,sdd)' 
+ ps='perin(1.84,sdd)'
Minverter_3._11 out net_2 vdd vdd p W='3.68*1u' L=lp_min 
+ ad='areap(3.68,sdd)' as='areap(3.68,sdd)' pd='perip(3.68,sdd)' 
+ ps='perip(3.68,sdd)'
*.ENDS	$ MMI_MUX2C

