* FILE: MMI_MUX4C.sp


* SPICE netlist for "MMI_MUX4C" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_MUX4C in0 in1 in2 in3 out sel0 sel1 
Mxgate._0 N2 sel1 N1 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)'
Mxgate._1 N2 sel1_L N1 gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)'
Mxgate_1._2 N2 sel1_L net_1 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)'
Mxgate_1._3 N2 sel1 net_1 gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)'
Minverter._4 sel1_L sel1 gnd gnd n W='0.46*1u' L=ln_min 
+ ad='arean(0.46,sdd)' as='arean(0.46,sdd)' pd='perin(0.46,sdd)' 
+ ps='perin(0.46,sdd)'
Minverter._5 sel1_L sel1 vdd vdd p W='0.92*1u' L=lp_min 
+ ad='areap(0.92,sdd)' as='areap(0.92,sdd)' pd='perip(0.92,sdd)' 
+ ps='perip(0.92,sdd)'
Mxgate_2._6 N1 sel0 net_2 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)'
Mxgate_2._7 N1 net_6 net_2 gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)'
Minverter_1._8 net_2 in0 gnd gnd n W='0.92*1u' L=ln_min 
+ ad='arean(0.92,sdd)' as='arean(0.92,sdd)' pd='perin(0.92,sdd)' 
+ ps='perin(0.92,sdd)'
Minverter_1._9 net_2 in0 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
Mxgate_3._10 N1 net_6 net_3 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)'
Mxgate_3._11 N1 sel0 net_3 gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)'
Minverter_2._12 net_3 in1 gnd gnd n W='0.92*1u' L=ln_min 
+ ad='arean(0.92,sdd)' as='arean(0.92,sdd)' pd='perin(0.92,sdd)' 
+ ps='perin(0.92,sdd)'
Minverter_2._13 net_3 in1 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
Mxgate_4._14 net_1 sel0 net_4 vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
Mxgate_4._15 net_1 net_6 net_4 gnd n W='0.92*1u' L=ln_min 
+ ad='arean(0.92,sdd)' as='arean(0.92,sdd)' pd='perin(0.92,sdd)' 
+ ps='perin(0.92,sdd)'
Minverter_3._16 net_4 in2 gnd gnd n W='0.92*1u' L=ln_min 
+ ad='arean(0.92,sdd)' as='arean(0.92,sdd)' pd='perin(0.92,sdd)' 
+ ps='perin(0.92,sdd)'
Minverter_3._17 net_4 in2 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
Mxgate_5._18 net_1 net_6 net_5 vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
Mxgate_5._19 net_1 sel0 net_5 gnd n W='0.92*1u' L=ln_min 
+ ad='arean(0.92,sdd)' as='arean(0.92,sdd)' pd='perin(0.92,sdd)' 
+ ps='perin(0.92,sdd)'
Minverter_4._20 net_5 in3 gnd gnd n W='0.92*1u' L=ln_min 
+ ad='arean(0.92,sdd)' as='arean(0.92,sdd)' pd='perin(0.92,sdd)' 
+ ps='perin(0.92,sdd)'
Minverter_4._21 net_5 in3 vdd vdd p W='1.84*1u' L=lp_min 
+ ad='areap(1.84,sdd)' as='areap(1.84,sdd)' pd='perip(1.84,sdd)' 
+ ps='perip(1.84,sdd)'
Minverter_5._22 net_6 sel0 gnd gnd n W='0.62*1u' L=ln_min 
+ ad='arean(0.62,sdd)' as='arean(0.62,sdd)' pd='perin(0.62,sdd)' 
+ ps='perin(0.62,sdd)'
Minverter_5._23 net_6 sel0 vdd vdd p W='1.24*1u' L=lp_min 
+ ad='areap(1.24,sdd)' as='areap(1.24,sdd)' pd='perip(1.24,sdd)' 
+ ps='perip(1.24,sdd)'
Minverter_6._24 out N2 gnd gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)'
Minverter_6._25 out N2 vdd vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)'
*.ENDS	$ MMI_MUX4C

