* FILE: MMI_MUXI2B.sp


* SPICE netlist for "MMI_MUXI2B" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_MUXI2B in0 in1 out sel 
Mxgate._0 out sel net_1 vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)'
Mxgate._1 out net_3 net_1 gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)'
Minverter._2 net_1 in0 gnd gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)'
Minverter._3 net_1 in0 vdd vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)'
Minverter_1._4 net_2 in1 gnd gnd n W='1.84*1u' L=ln_min 
+ ad='arean(1.84,sdd)' as='arean(1.84,sdd)' pd='perin(1.84,sdd)' 
+ ps='perin(1.84,sdd)'
Minverter_1._5 net_2 in1 vdd vdd p W='3.68*1u' L=lp_min 
+ ad='areap(3.68,sdd)' as='areap(3.68,sdd)' pd='perip(3.68,sdd)' 
+ ps='perip(3.68,sdd)'
Mxgate_1._6 out net_3 net_2 vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)'
Mxgate_1._7 out sel net_2 gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)'
Minverter_2._8 net_3 sel gnd gnd n W='0.62*1u' L=ln_min 
+ ad='arean(0.62,sdd)' as='arean(0.62,sdd)' pd='perin(0.62,sdd)' 
+ ps='perin(0.62,sdd)'
Minverter_2._9 net_3 sel vdd vdd p W='1.24*1u' L=lp_min 
+ ad='areap(1.24,sdd)' as='areap(1.24,sdd)' pd='perip(1.24,sdd)' 
+ ps='perip(1.24,sdd)'
*.ENDS	$ MMI_MUXI2B

